US07078405B2
8-Bromo-2-ethylimidazo[1,2-c]pyrimidine
8-Bromo-2-ethyl-2,3-dihydroimidazo[1,2-c]pyrimidine (3.0 g) was dissolved in toluene (60 mL), then activated manganese(IV) dioxide (3.5 g) was added thereto, and the mixture was heated under stirring at 90° C. for 1 day. Manganese(IV) oxide was filtered off through Celite, and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:10) to give the title compound (1.3 g) as white crystals.

reactant | 8-Bromo-2-ethyl-2,3-dihydroimidazo[1,2-c]pyrimidine | 3.0 g | BrC=1C=2N(C=NC1)CC(N2)CC | C8H10BrN3
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese(IV) dioxide | 3.5 g | [O-2].[O-2].[Mn+4]
product | 8-Bromo-2-ethylimidazo[1,2-c]pyrimidine | 1.3 g | BrC=1C=2N(C=NC1)C=C(N2)CC | C8H8BrN3
